US09145392B2
Step 3: tert-butyl 3-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(piperidin-4-yl)-1H-imidazol-1-yl)pyrrolidine-1-carboxylate
To a solution of 4-[1-(1-tert-butoxycarbonyl-pyrrolidin-2-ylmethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester (200.00 mg; 0.32 mmol; 1.00 eq.) in methanol 5 ml added trifluoro-acetic acid (54.24 mg; 0.48 mmol; 1.50 eq.), stirred at RT for 5 min, added ammonium formate (199.96 mg; 3.17 mmol; 10.00 eq.) and 200 mg wet 10% Pd/C, stirred at RT for 1 hr, lc-ms showed clean desired. Removed off solvent, added EA 50 ml, washed with Brine and 5% NaHCO3, dried, removed off solvent, got title compound 110 mg, yield 70%.

reactant | 4-[1-(1-tert-butoxycarbonyl-pyrrolidin-2-ylmethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | 0.32 mmol, 200.00 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CC1N(CCC1)C(=O)OC(C)(C)C | C33H38F4N4O4
reactant | trifluoro-acetic acid | 0.48 mmol, 54.24 mg, 1.50 eq. | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonium formate | 3.17 mmol, 199.96 mg, 10.00 eq. | C(=O)[O-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 3-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(piperidin-4-yl)-1H-imidazol-1-yl)pyrrolidine-1-carboxylate | 110 mg, yield 70% | FC1=C(C=C(C=C1)C=1N=C(N(C1)C1CN(CC1)C(=O)OC(C)(C)C)C1CCNCC1)C(F)(F)F | C24H30F4N4O2
